US08835472B2
N-(1-(4-((4-ethoxyphenyl)ethynyl)phenyl)propan-2-yl)butyramide
8.41 mg (0.10 mmol) butanoic acid are dissolved in 300 μL DMF together with 32.1 mg (0.10 mmol) TBTU and 50.0 μL (0.30 mmol) DIPEA and the mixture is stirred at r.t. for 5 min. 27.9 mg (0.10 mmol) 1-(4-((4-ethoxyphenyl)ethynyl)phenyl)propan-2-amine (I64) are added and the reaction mixture is stirred at 40° C. over night. The mixture is filtered through a plug of alox, eluted with DMF/MeOH (9/1) and the solvent is removed in vacuo. The residue is purified by HPLC.

reactant | butanoic acid | 0.10 mmol, 8.41 mg | C(CCC)(=O)O | C4H8O2
reactant | TBTU | 0.10 mmol, 32.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.30 mmol, 50.0 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(4-((4-ethoxyphenyl)ethynyl)phenyl)propan-2-amine | 0.10 mmol, 27.9 mg | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)N | C19H21NO
solvent | DMF | 300 μL | CN(C)C=O | C3H7NO
product | N-(1-(4-((4-ethoxyphenyl)ethynyl)phenyl)propan-2-yl)butyramide | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(CCC)=O | C23H27NO2
